US06960602B2
To a solution of 1-phenylmethyl-4-piperidone (25.0 g, 132 mmol) in THF (250 mL) was added ethylamine hydrochloride (12.0 g, 147 mmol) and methanol (50 mL) and the resulting mixture stirred at room temperature for 10 min. Sodium triacetoxyborohydride (40 g, 189 mmol) was added portionwise and the resulting mixture stirred at room temperature for 1 h. 2M Sodium hydroxide solution (250 mL) was added and the resulting mixture extracted with diethyl ether. The organic extracts were dried (K2CO3) and evaporated to give 1-phenylmethyl-4-ethylaminopiperidine as an oil. This was dissolved in ethanol (500 mL) and concentrated hydrochloric acid (20 mL) was added. The resulting crystals were collected, washed with diethyl ether and dried giving the title compound as a solid (38 g); 1H NMR (CDCl3): 1.10 (t, 3H), 1.40 (m, 2H), 1.83 (m, 2H), 2.02 (m, 2H), 2.65 (q, 2H), 2.85 (m, 2H), 3.50 (s, 2H), 3.75 (m, 1H), 7.2-7.4 (m, 5H); MS: 219.

reactant | 1-phenylmethyl-4-piperidone | 132 mmol, 25.0 g | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
reactant | ethylamine hydrochloride | 147 mmol, 12.0 g | Cl.C(C)N
reactant | Sodium triacetoxyborohydride | 189 mmol, 40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium hydroxide | 2M, 250 mL | [OH-].[Na+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 1-phenylmethyl-4-ethylaminopiperidine | C1(=CC=CC=C1)CN1CCC(CC1)NCC | C14H22N2
